US05731306
Step f: 2-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-3-(2-vinyl-phenyl)-propionic acid, 2-trimethylsilanyl-ethyl ester
Dissolve 2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(2-vinyl-phenyl)-propionic acid (2.47 g, 7.69 mmol) in tetrahydrofuran (35 mL) and cool in an ice bath. Treat with pyridine (1.6 mL, 20 mmol) and 2-(trimethylsilyl)ethanol (2.3 mL, 16 mmol). Stir for 30 minutes and add 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC) (2.21 g, 11.5 mmol). Stir for 22 hours at 5° C., then at room temperature for 1.5 hours. Cool to 0° C., add 0.6 times all reagents and stir at room temperature overnight. Dilute with ethyl acetate (150 mL), wash with 5% sulfuric acid (40 mL) and saturated sodium hydrogen carbonate (40 mL). Back extract with methylene chloride (100 mL), wash with brine (30 mL) and dry (Na2SO4). Evaporate the solvent in vacuo and purify by silica gel chromatography (2:1 hexane/ethyl acetate) to give the title compound (2.61 g, 81%).

reactant | 2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(2-vinyl-phenyl)-propionic acid | 7.69 mmol, 2.47 g | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)O)CC1=C(C=CC=C1)C=C | C19H15NO4
reactant | pyridine | 20 mmol, 1.6 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-(trimethylsilyl)ethanol | 16 mmol, 2.3 mL | C[Si](CCO)(C)C | C5H14OSi
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 11.5 mmol, 2.21 g | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 2-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-3-(2-vinyl-phenyl)-propionic acid, 2-trimethylsilanyl-ethyl ester | 2.61 g, 81% | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)OCC[Si](C)(C)C)CC1=C(C=CC=C1)C=C | C24H27NO4Si
